US08134001B2
In a manner similar to the method described in example 1d, 5-chloro-2-(4-methylsulfanyl-phenoxy)-benzaldehyde (3.5 g, 12.6 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (2.6 mL, 12.6 mmol), n-butyllithium (2.5 M, 5 mL, 12.6 mmol), trimethylsilyl chloride (1.6 mL, 12.6 mmol), triethylamine (2.3 mL, 16 mmol) and acetyl chloride (1.2 mL, 16 mmol) to give crude 1-[5-chloro-2-(4-methylsulfanyl-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 5-chloro-2-(4-methylsulfanyl-phenoxy)-benzaldehyde | 12.6 mmol, 3.5 g | ClC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)SC | C14H11ClO2S
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 12.6 mmol, 2.6 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 12.6 mmol, 2.5 M, 5 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 12.6 mmol, 1.6 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 16 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 16 mmol, 1.2 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[5-chloro-2-(4-methylsulfanyl-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1=CC=C(C=C1)SC | C19H22ClNO2SSi
